Mixed-mode Binary Ripple 93
*SPICE Netlist generated by Advanced Sim server on 17/06/2002 1:05:01 AM

*Add Node Bridge Data
ADVB1 [0 CLK VCC][GND$AD CLK$AD VCC$AD] adc_mod
ADVB2 [B1$DA B2$DA B3$DA B4$DA CLK$DA VCC$DA][B1 B2 B3 B4 CLK VCC] dac_mod
ADVB3 [NQ0$DV NQ1$DV NQ2$DV NQ3$DV Q0$DV Q1$DV Q2$DV Q3$DV]
+ [NQ0 NQ1 NQ2 NQ3 Q0 Q1 Q2 Q3] dav_mod
.model adc_mod xadc
.model dac_mod xdac
.model dav_mod xdav

*Schematic Netlist:
Q1 O4 B1 0 NPN
Q2 O3 B2 0 NPN
Q3 O2 B3 0 NPN
Q4 O1 B4 0 NPN
R3 O4 VEE 1k
R4 VEE O3 1k
R5 O2 VEE 1k
R6 VEE O1 1k
AU3A [VCC$AD GND$AD VCC$AD VCC$AD CLK$AD VCC$AD VCC$AD][VCC$DA VCC$DA VCC$DA
+ CLK$DA VCC$DA VCC$DA NQ3$DV Q3$DV] 74LS112
AU3B [VCC$AD GND$AD VCC$AD VCC$AD Q3$DV VCC$AD VCC$AD][VCC$DA VCC$DA VCC$DA Q3$DV
+ VCC$DA VCC$DA NQ2$DV Q2$DV] 74LS112
AU4A [VCC$AD GND$AD VCC$AD VCC$AD Q2$DV VCC$AD VCC$AD][VCC$DA VCC$DA VCC$DA Q2$DV
+ VCC$DA VCC$DA NQ1$DV Q1$DV] 74LS112
AU4B [VCC$AD GND$AD VCC$AD VCC$AD Q1$DV VCC$AD VCC$AD][VCC$DA VCC$DA VCC$DA Q1$DV
+ VCC$DA VCC$DA NQ0$DV Q0$DV] 74LS112
AU7A [VCC$AD GND$AD Q3$DV][VCC$DA Q3$DV B1$DA] 74LS04
AU8A [VCC$AD GND$AD Q2$DV][VCC$DA Q2$DV B2$DA] 74LS04
AU9A [VCC$AD GND$AD Q1$DV][VCC$DA Q1$DV B3$DA] 74LS04
AU10A [VCC$AD GND$AD Q0$DV][VCC$DA Q0$DV B4$DA] 74LS04
V1 VCC 0 5V
V2 VEE 0 15V
Vin CLK 0 DC 0 PULSE(0 5 10n 5n 5n 50n 100n 0) AC 1 0

.SAVE 0 B1 B2 B3 B4 CLK NQ0 NQ1 NQ2 NQ3 O1 O2 O3 O4 Q0 Q1 Q2 Q3 VCC VEE V1#branch
.SAVE V2#branch Vin#branch @V1[z] @V2[z] @Vin[z]

*PLOT TRAN -1 1 A=CLK A=O1 A=O2 A=O3 A=O4 A=Q0 A=Q1 A=Q2 A=Q3

*Selected Circuit Analyses:
.TRAN 2.5E-8 1E-6 0 2.5E-8

*Models and Subcircuit:
.MODEL NPN NPN()

.MODEL 74LS112 XSIMCODE(FILE="C:\Program Files\Altium\Phoenix\Library\Sim\LS.SCB" FUNC=LS112
+ )

.MODEL 74LS04 XSIMCODE(FILE="C:\Program Files\Altium\Phoenix\Library\Sim\LS.SCB" FUNC=LS04
+ )

.END
